US04456772
18.6 g (0.1 mol) of 2-chloro-5-nitrobenzaldehyde and 11.6 g (0.2 mol) of dry potassium fluoride in 50 ml of dimethylformamide are stirred for 12 hours at 100° C. The solvent is then distilled off in vacuo and the residue is stirred in 100 ml of water. The crude 2-fluoro-5-nitrobenzaldehyde is filtered off under suction, washed with water and dried. 16.7 g of 2-fluoro-5-nitrobenzaldehyde with a content of 96% are obtained.

reactant | 2-chloro-5-nitrobenzaldehyde | 0.1 mol, 18.6 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | potassium fluoride | 0.2 mol, 11.6 g | [F-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-5-nitrobenzaldehyde | 16.7 g, Yield: 94.8% | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
